US07018988B2
To a mixture of 4-tolylboronic acid (38 g, 0.28 mol), 3-bromopyridine (44 g, 0.28 mol), Na2CO3 (200 g) in toluene (500 ml) and water (500 ml) was added Pd(PPh3)4 (16 g, 0.014 mol), and refluxed for 16 h. The reaction mixture was cooled, and the separated organic layer was washed with water and brine, and dried. The solvent was removed to give 4-(3-pyridyl)toluene (42 g, 90%). To a mixture of 4-(3-pyridyl)toluene (35 g, 0.207 mol) in pyridine (400 ml) and water (400 ml) was added KMnO4 (163 g, 1.03 mol) in portions and refluxed for 12 h. The reaction mixture was filtered through celite and acidified with conc. HCl. The product was washed with water and dried to give 4-(3-pyridyl)benzoic acid (32 g, 76%) as a white solid. To a mixture of 4-(3-pyridyl)benzoic acid (22 g, 0.11 mol) in THF (2.51), mCPBA (152 g, 0.44 mol, 50%) was added and stirred at RT for 12 h. The solid was filtered, and washed with THF to give 4-(1-oxido-3-pyridinyl)benzoic acid (20 g, 86%).

reactant | 4-(3-pyridyl)benzoic acid | 0.11 mol, 22 g | N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | mCPBA | 0.44 mol, 152 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-oxido-3-pyridinyl)benzoic acid | 20 g, 86% | [O-][N+]1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
